US06906055B2
Benzhydryl 7β-[(phenylacetyl)amino]-3-[(methylsulfonyl)oxy]-3-cephem-4-carboxylate
Benzhydryl 7β-[(phenylacetyl)amino]-3-hydroxy-3-cephem-4-carboxylate (500 g, 1 mol) was dissolved in acetonitrile (2 L) and ethyldiisopropylamine (183 mL, 1.05 mol) was added dropwise over 10 min with stirring at −40° C. Then, methanesulfonyl chloride (86 mL, 1.1 mol) was added dropwise over 10 min and the mixture was stirred at −40° C. for 40 min. The reaction mixture was poured into iced water (8 L) and the precipitate was collected by filtration. The precipitate was washed with water (2 L) and ethyl acetate (300 mL) and dried under reduced pressure to give the title compound (544 g, 0.94 mol) as pale-yellow crystals. yield: 94%.

reactant | Benzhydryl 7β-[(phenylacetyl)amino]-3-hydroxy-3-cephem-4-carboxylate | 1 mol, 500 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O5S
reactant | ethyldiisopropylamine | 1.05 mol, 183 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 1.1 mol, 86 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 8 L | O | H2O
solvent | acetonitrile | 2 L | C(C)#N | C2H3N
product | Benzhydryl 7β-[(phenylacetyl)amino]-3-[(methylsulfonyl)oxy]-3-cephem-4-carboxylate | 0.94 mol, 544 g, yield: 94% | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O7S2
